US08372847B2
(S)-5-Chloro-1-(cyclopropyl-2-methoxyethyl)-3-[6-(difluoromethoxy)-2,5-dimethyl-pyridin-3-ylamino]pyrazin-2(1H)-one (S)-3,5-Dichloro-1-(1-cyclopropyl-2-methoxyethyl)pyrazin-2(1H)-one (15.0 g, 57.0 mmol) and 6-(difluoromethoxy)-2,5-dimethylpyridin-3-amine (10.7 g, 57.0 mmol) were combined under N2 in a 2 L, 3-neck, round-bottomed flask equipped with a thermometer and an addition funnel. THF (570 mL) was added and the mixture was cooled to 0° C. NaHMDS (119.7 mL, 119.7 mmol, 1 M in THF) was added dropwise via addition funnel over 20 min at a rate to maintain the internal temperature below 5° C. After the addition was complete, the reaction mixture was stirred at 0° C. for an additional 15 min. The reaction was quenched by the addition of saturated aqueous NH4Cl (60 mL). The mixture was transferred to a separatory funnel containing water (400 mL) and the aqueous layer was extracted with ether (3×300 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The product was purified by column chromatography on silica gel (30% ethyl acetate in hexanes) to afford (S)-5-chloro-1-(cyclopropyl-2-methoxyethyl)-3-[6-(difluoromethoxy)-2,5-dimethylpyridin-3-ylamino]pyrazin-2(1H)-one (22.1 g, 94% yield) as a pale yellow solid which was subsequently recrystallized from heptane to furnish colorless needles: mp 103.4-104.4° C.; [α]25D −41.9 (c 0.807, CHCl3); 1H NMR (400 MHz, CDCl3) δ 8.42 (s, 1H), 8.02 (s, 1H), 7.46 (t, J=74.0 Hz, 1H), 6.96 (s, 1H), 4.19-4.14 (m, 1H), 3.75 (dd, JAB=10.3, JAX=6.3 Hz, 1H), 3.67 (dd, JBA=10.3, JBX=3.5 Hz, 1H), 3.34 (s, 3H), 2.44 (s, 3H), 2.26 (s, 3H), 1.32-1.26 (m, 1H), 0.81-0.74 (m, 1H), 0.63-0.54 (m, 1H), 0.52-0.47 (m, 1H), 0.36-0.29 (m, 1H); HRMS (ESI) m/e 415.1360 [(M+H)+, calcd for C18H22N4O3ClF2 415.1349]. Anal, Calcd for C18H21N4O3ClF2: C, 52.11; H, 5.10; N, 13.50. Found: C, 52.05; H, 4.99; N, 13.48.

reactant | (S)-5-Chloro-1-(cyclopropyl-2-methoxyethyl)-3-[6-(difluoromethoxy)-2,5-dimethyl-pyridin-3-ylamino]pyrazin-2(1H)-one (S)-3,5-Dichloro-1-(1-cyclopropyl-2-methoxyethyl)pyrazin-2(1H)-one | 57.0 mmol, 15.0 g | ClC=1C(N(C=C(N1)Cl)[C@H](COC)C1CC1)=O.ClC=1N=C(C(N(C1)C[C@@H](OC)C1CC1)=O)NC=1C(=NC(=C(C1)C)OC(F)F)C
reactant | 6-(difluoromethoxy)-2,5-dimethylpyridin-3-amine | 57.0 mmol, 10.7 g | FC(OC1=C(C=C(C(=N1)C)N)C)F | C8H10F2N2O
reactant | NaHMDS | 119.7 mmol, 1 M, 119.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 570 mL | C1CCOC1 | C4H8O
product | (S)-5-chloro-1-(cyclopropyl-2-methoxyethyl)-3-[6-(difluoromethoxy)-2,5-dimethylpyridin-3-ylamino]pyrazin-2(1H)-one | 22.1 g, 94% yield | ClC=1N=C(C(N(C1)C[C@@H](OC)C1CC1)=O)NC=1C(=NC(=C(C1)C)OC(F)F)C | C18H21ClF2N4O3
